US07595338B2
A crude mixture of 2-(3-chloropyridin-2-yl)-2-methylpropionitrile and 2,3-dichloropyridine (0.171 g) was dissolved in concentrated hydrochloric acid (4 mL) and the solution was heated to 90-95° C. for 5.5 hours. Upon cooling, it was diluted with water and extracted twice with dichloromethane. The aqueous phase was basified with sodium hydroxide (with cooling) to pH of 8 and extracted twice with dichloromethane. The organic extracts were washed with water and dried over anhydrous magnesium sulfate. Filtration and evaporation gave 2-(3-chloropyridin-2-yl)isobutyramide (64 mg). 1H-NMR (DMSO-d6): δ 8.48 (dd, 4.6, 1.5 Hz), 7.83 (dd, 7.95, 1.5), 7.325 (dd, 7.95, 4.6), 6.97 and 6.93 (2 s, CONH2), 1.50 (s, 6H).

reactant | 2-(3-chloropyridin-2-yl)-2-methylpropionitrile | ClC=1C(=NC=CC1)C(C#N)(C)C | C9H9ClN2
reactant | 2,3-dichloropyridine | 0.171 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | water | O | H2O
solvent | hydrochloric acid | 4 mL | Cl | ClH
product | 2-(3-chloropyridin-2-yl)isobutyramide | 64 mg | ClC=1C(=NC=CC1)C(C(=O)N)(C)C | C9H11ClN2O
